US04088652
Preparation of 2'-(1-Phenyl-3-azabicyclo[3.1.0]-hex-3-ylcarbonyl)acetanilide
A mixture of 7 g. of 1-phenyl-3-azabicyclo[3.1.0]hexane and 6.5 g. of isatoic anhydride in 10 ml. of dimethyl sulfoxide is warmed on a steam bath for 10 minutes. The mixture is cooled and water is added producing a gummy solid which is separated by extraction with chloroform, dried, filtered and evaporated to a dark oil. This oil is dissolved in 30 ml. of acetic anhydride, refluxed for 5 minutes, evaporated to an oil and water is added and decanted from the mixture several times. The thick oil is mixed with ethanol and a solid separates. This solid is dissolved in hot ethanol filtered and cooled giving a white solid which is recrystallized once from aqueous ethanol and once from ether to give the product as a white solid, mp 124.5°-127° C.

reactant | 1-phenyl-3-azabicyclo[3.1.0]hexane | C1(=CC=CC=C1)C12CNCC2C1 | C11H13N
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2'-(1-Phenyl-3-azabicyclo[3.1.0]-hex-3-ylcarbonyl)acetanilide | C1(=CC=CC=C1)C12CN(CC2C1)C(=O)C1=C(NC(C)=O)C=CC=C1 | C20H20N2O2
